US07572820B2
1-{2-[(6-Fluoro-3-pyridinyl)oxy]ethyl}-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 5-[(2-bromoethyl)oxy]-2-fluoropyridine. 1H NMR (400 MHz, DMSO-d6) δ 8.00 (d, J=8.5 Hz, 1H), 7.76 (s, 1H), 7.69 (d, J=8.5 Hz, 1H), 7.45 (m, 1H), 7.03 (dd, J=9.0 and 3.4 Hz, 1H), 6.54 (s, 1H), 4.69 (t, J=5.1 Hz, 2H), 4.35 (t, J=5.1 Hz, 2H), 2.56 (s, 3H); MS (ES) m/z 364 (M+1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | 5-[(2-bromoethyl)oxy]-2-fluoropyridine | BrCCOC=1C=CC(=NC1)F | C7H7BrFNO
product | 1-{2-[(6-Fluoro-3-pyridinyl)oxy]ethyl}-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC1=CC=C(C=N1)OCCN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C | C18H13F4N3O
